* NekoSpice Eeschema generated SPICE netlist
.include "models/ideal_diode.lib"
V1 in 0 PULSE(0 1 0 100n 100n 5u 10u)
R1 in out 1k
D1 out 0 DIDEAL
.tran 100n 30u
.end
